US04230705
A mixture of 7.6 g. of 3-chloro-6-phenylpyridazine, 7.4 g. of propionic acid hydrazide and 60 ml of n-butanol is stirred at reflux temperature for 48 hours. The solution is cooled in a chilled room, concentrated to remove the solvent and triturated with water giving crystals. The mixture is filtered, washed with petroleum ether and water and dried. The product is recrystallized from 20 ml. of ethanol giving 3-ethyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine, m.p. 133°-135° C.

reactant | 3-chloro-6-phenylpyridazine | ClC=1N=NC(=CC1)C1=CC=CC=C1 | C10H7ClN2
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 3-ethyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine | C(C)C1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C13H12N4
